US05869475
A solution of 20-hydroxymethyl-4-nitropregn-4-en-3-one (0.52 g, 1.38 ml) in absolute ethanol (4.8 mL) is combined with stannous chloride (2.1 g) added in one portion and then heated to 70° C. for 6 hours. The reaction vessel is then cooled to room temperature and the solution is carefully neutralized with sodium bicarbonate (9 g) over a 10 minute period. The resulting slurry is then filtered, removing a brown solid which is then stirred in 10% hydrofluoric acid (25 mL) and ethyl acetate (25 mL). The HF/EtOAc treatment is repeated. The organic phases from each filtration are combined, dried over magnesium sulphate, filtered and concentrated. The resulting residue is purified by flash chromatagraphy to give 4-amino-20-hydroxymethylpregn-4-en-3-one as a white solid identical to the material described in U.S. Pat. No. 5,218,110 to Weintraub and U.S. Pat. No. 5,120,840 to Weintraub et al., which are both herein incorporated by reference.

reactant | 20-hydroxymethyl-4-nitropregn-4-en-3-one | 1.38 ml, 0.52 g | OCC(C)[C@H]1CC[C@H]2[C@@H]3CCC4=C(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)[N+](=O)[O-] | C22H33NO4
reactant | sodium bicarbonate | 9 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 4.8 mL | C(C)O | C2H6O
product | 4-amino-20-hydroxymethylpregn-4-en-3-one | NC1=C2CC[C@H]3[C@@H]4CC[C@H](C(C)CO)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C22H35NO2
